2172-04-18 06:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: hypotension, tachycardia, abdominal pain, fever/chills
   24 Hour Events:
   -liver ultrasound: normal, patent hepatic vasculature, including main,
   right, and left portal veins, as well as right, middle, and left
   hepatic veins. Patent and normal main hepatic artery. Moderate ascites.
   -gave albumin, 1L NS for low UOP
   -micro data
     -blcx [**1-14**] from [**4-17**]- GNR
     -ucx- negative
   -Dr [**Last Name (STitle) 1183**]: no Zeloda, family should call in one week re: re-starting
   chemotherapy
   -in the morning had large loose bowel movement, dark brown, that was
   very guiaic positive per nurse; no pain during bm, no gross blood
   -this morning denies pain, confusion, or disorientation; feels better
   than when he came in, although abdomen feels slightly more distended
   Allergies:
   Epinephrine
   "racing heart";
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2172-4-18**] 04:06 AM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2172-4-17**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2172-4-18**] 04:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-4-18**] 06:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.7
C (98.1
   HR: 81 (75 - 114) bpm
   BP: 87/54(62) {77/37(47) - 106/60(71)} mmHg
   RR: 15 (13 - 27) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
    CVP: 5 (5 - 27)mmHg
   CO/CI (Fick): (16 L/min) / (8.7 L/min/m2)
   Mixed Venous O2% Sat: 89 - 89
   Total In:
                                                                  5,156 mL
                                                                    526 mL
   PO:
                                                                    360 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  2,696 mL
                                                                    166 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                    780 mL
                                                                    320 mL
   Urine:
                                                                    580 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,376 mL
                                                                    206 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   Vitals: T:98.6  BP:85/52  P:114  R: 17 SaO2:100%
   General: Thin elderly man, fatigued, pleasant, NAD
   HEENT: NCAT, MM dry, no scleral icterus
   Neck: supple, LIJ in place.
   Pulmonary: Decreased BS at bases bilaterally. No crackles, wheezes.
   Cardiac: Regular, tachycardic.
   Abdomen: + ascites, soft, distended.  Well healed scar in RUQ.
   Extremities: No edema, 2+ radial, DP pulses b/l
   Lymphatics: No cervical, supraclavicular, axillary or inguinal
   lymphadenopathy noted
   Labs / Radiology
   93 K/uL
   8.4 g/dL
   84 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.1 mEq/L
   24 mg/dL
   103 mEq/L
   131 mEq/L
   23.7 %
   6.3 K/uL
        [image002.jpg]
                             [**2172-4-17**]  08:24 AM
                             [**2172-4-17**]  10:30 AM
                             [**2172-4-17**]  03:47 PM
                             [**2172-4-18**]  03:29 AM
   WBC
   10.3
   12.2
   6.3
   Hct
   28.0
   26.6
   23.7
   Plt
   171
   139
   93
   Cr
   0.9
   1.0
   Glucose
   121
   103
   84
   Other labs: PT / PTT / INR:14.7/31.8/1.3, ALT / AST:23/24, Alk Phos / T
   Bili:325/1.3, Differential-Neuts:88.7 %, Lymph:8.0 %, Mono:3.1 %,
   Eos:0.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, LDH:114 IU/L,
   Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   73 year-old man with metastatic inoperable cholangiocarcinoma with h/o
   gastric outlet obstruction s/p stenting p/w hypotension, fever/chills,
   increased ascites and poor po intake.
   #  Hypotension: Ddx includes dehydration (s/p large volume paracentesis
   with likely associated fluid shifts), decreased venous return in
   setting of malignancy/venous obstruction, sepsis, decompensated CHF,
   GIB in setting of guaiac positive stool, PE.  Has received 3-3.5L IVF
   with persistent hypotension. Reassuringly lactate improved from 2.7
   -->2.1-->1.3 with IVF.
   -continue to treat infection with IV Zosyn
   -surveillance blood cultures
   -giving 1U blood this morning, could give NS boluses PRN for MAP >65
   -liver u/s with dopppler to evaluate for venous thrombosis
   -hold antihypertensives
   -monitor hct, active T&S as below
   # Fevers/Chills: Pt had low grade temps with chills. Prior history of
   GPR peritonitis and resistant e. coli bacteremia.  Ascites fluid
   transudative, does not meet criteria for SBP.  Given history and
   abnormal abdominal anatomy, suspect GI source most likely, especially
   given normal CXR and oxygenation, normal UA.  Blood cultures from
   admission grew GNR with most likely source being biliary.
   -continue Zosyn, surveillance cultures as above
   # Poor PO intake:
   -slowly advance diet
   -nutrition recs, ensure
   # AF: Not anticoagulated, on BB, digoxin and amiodarone at home. RVR
   likely compensatory in setting of hypotension. Has been fluid
   responsive thus far .
   -continue dig and amio; check digoxin level this morning
   -hold BB for now given hypotension
   # Cholangiocarcinoma: Inoperable.  Per report, though not in [**Name (NI) 179**], pt
   received oral chemotherapy [**4-13**]. Plan for resumption of chemotherapy per
   Dr. [**Last Name (STitle) 1183**].
   # Ascites: Likely related to portal hypertension (transudative) given
   diffuse liver metastases. Last para was five days prior to admission
   for 5L fluid removal.
   -f/u peritoneal fluid culture
   -consider therapeutic paracentesis today
   # Coronary artery disease:
   -continue ASA, plavix
   -holding off on BB for now as above for hypotension
   # Guaiac positive stool: Hematocrit initially slightly above baseline,
   appeared hemoconcentrated, dropped from 34-28 with hydration, this is
   low normal for him. Today 23 is very low for him, although this is in
   the setting of IV hydration. Likely this is upper GI source, as bowel
   movements are not grossly bloody; cholangioCA is likely source.
   -continue ASA, plavix given significant CAD
   -[**Hospital1 **] hematocrits
   -keep active T&S
   -transfusing one unit this morning
   -[**Hospital1 **] PPI
   -DIC panel
   # Low platelets: consider dilutational effect, consumption from
   bleeding, DIC (less likely), HIT (less likely).
   -continue to trend
   -DIC panel as above
   -consider HIT antibody
   # Diabetes
   -Hold glipizide
   -HISS
   # FEN/Lytes: Clears advancing as tolerated to diabetic diet, replete
   lytes prn
   # Prophylaxis: Heparin SC 5000 tid and pneumoboots
   # Code status: FULL CODE
   # Dispo: should stay in unit until blood pressure improves
   ICU Care
   Nutrition: clear liquids advance as tolerated to regular diet
   Glycemic Control: sliding scale insulin
   Lines:
   Multi Lumen - [**2172-4-17**] 06:42 AM
   18 Gauge - [**2172-4-17**] 06:43 AM
   20 Gauge - [**2172-4-17**] 06:43 AM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer: omeprazole
   VAP: NA
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: consider call-out to floor later

2172-04-18 12:07:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient is a 73 yo male with history of metastatic cholangiocarcinoma
   now admitted to the ICU with significant findings of fatigue, chills,
   increased ascites and fever all consistent with GNR sepsis.  Of note
   patient does have history of gastric outlet obstruction but active
   obstruction did not appear to be present.
   24 Hour Events:
 RUQ ULTRASOUND - At [**2172-4-17**] 01:30 PM
 BLOOD CULTURED - At [**2172-4-17**] 09:00 PM
 URINE CULTURE - At [**2172-4-17**] 09:00 PM
   24 hr events - liver u/s showed patent portal veins, given albumin for
   hypotension (SBP 90s)
   BC [**1-14**] growing GNRs
   U/a unremarkable and urine cx neg
   Transfused 1 unit PRBC this AM for acute decrease in Hct, dark brown
   stools, guaiac positive
   Allergies:
   Epinephrine
   "racing heart";
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2172-4-18**] 04:06 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2172-4-18**] 04:01 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-4-18**] 12:03 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36
C (96.8
   HR: 76 (71 - 107) bpm
   BP: 99/60(70) {77/37(47) - 106/60(71)} mmHg
   RR: 18 (14 - 24) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
   CVP: 10 (5 - 11)mmHg
   Total In:
                                                                  5,156 mL
                                                                  1,075 mL
   PO:
                                                                    360 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  2,696 mL
                                                                    220 mL
   Blood products:
                                                                    100 mL
                                                                    375 mL
   Total out:
                                                                    780 mL
                                                                    617 mL
   Urine:
                                                                    580 mL
                                                                    617 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,376 mL
                                                                    458 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress, Thin, No(t) Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, MMM, neck supple
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Crackles : , No(t) Wheezes :
   )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   93 K/uL
   84 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.1 mEq/L
   24 mg/dL
   103 mEq/L
   131 mEq/L
   27.0 %
   6.3 K/uL
        [image002.jpg]
                             [**2172-4-17**]  08:24 AM
                             [**2172-4-17**]  10:30 AM
                             [**2172-4-17**]  03:47 PM
                             [**2172-4-18**]  03:29 AM
                             [**2172-4-18**]  11:03 AM
   WBC
   10.3
   12.2
   6.3
   Hct
   28.0
   26.6
   23.7
   27.0
   Plt
   171
   139
   93
   Cr
   0.9
   1.0
   Glucose
   121
   103
   84
   Other labs: PT / PTT / INR:14.7/31.8/1.3, ALT / AST:23/24, Alk Phos / T
   Bili:325/1.3, Differential-Neuts:88.7 %, Lymph:8.0 %, Mono:3.1 %,
   Eos:0.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, LDH:114 IU/L,
   Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Microbiology: Blood cx - GNR growing
   Assessment and Plan
 ASCITES
 HYPOTENSION (NOT SHOCK)
   Patient is a 73 yo male with history of metastatic cholangiocarcinoma
   now admitted to the ICU with significant findings of fatigue, chills,
   increased ascites and fever all consistent with sepsis.  Of note
   patient does have history of gastric outlet obstruction but active
   obstruction did not appear to be present. Admitted with evidence of
   hyptension/septic shock in the setting of recent paracentesis. He also
   appeared hypovolemic.
   IMP
   1) GNR septicemia/ hypotension - likely from biliary source exacerbated
   from impaired venous return/intravascular vol depletion.
   -Empiric Abx to continue
will need to follow culture results as Zosyn
   given intially
   -IVF/albumin bolus as needed
   -Will need to track CVP and CvO2
   -Check FeNa
   -check bladder pressure (may have hemodynamic effect on BP)
   2) Ascites - likely from underlying malignancy with liver mets
   -Follow abdominal exam
   -No need for pressors at this time
   -consider therapeutic para
   3) Acute Anemia/thrombocytopenia
   -likely dilutional but has some GI bleeding which will need to be
   followed - will likely require GI evaluation
   -Will need to trend HCT for concern of possible GI blood losses
   -PE unlikely and risk of GI bleed significant and will hold on further
   Rx
   4)Cholangiocarcinoma-
   -Will need to discuss ongoing Xeloda with primary oncology team in the
   setting of possible active infection
   Additional Issues to be addressed as defined in the note above. Patient
   remains full code. Goals of care will eventually need to be reassessed.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2172-4-17**] 06:42 AM
   18 Gauge - [**2172-4-17**] 06:43 AM
   20 Gauge - [**2172-4-17**] 06:43 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 38 minutes
   Patient is critically ill

2172-04-19 07:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Had heme-positive stools. Hct drop in AM -> transfused with
   appropriate bump. Stable on repeat Hct. Concern for HIT given >50%
   decrease plt in 24 h but repeat plt improved. No evidence of DIC or
   hemolysis.
   - Given morphine 1mg IV x 1 for abdominal discomfort [**1-13**] increased
   distension with some relief.
   - No complaints this AM other than abdominal discomfort. Still with
   anorexia. Breathing comfortably. No orthostatic dizziness.
   Allergies:
   Epinephrine
   "racing heart";
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2172-4-19**] 04:31 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2172-4-18**] 08:19 PM
   Heparin Sodium (Prophylaxis) - [**2172-4-18**] 08:19 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-4-19**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.3
C (97.4
   HR: 78 (71 - 86) bpm
   BP: 98/53(65) {90/40(53) - 121/73(86)} mmHg
   RR: 20 (15 - 24) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
    CVP: 4 (4 - 11)mmHg
   Bladder pressure: 16 (16 - 36) mmHg
   Total In:
                                                                  1,908 mL
                                                                    111 mL
   PO:
                                                                    480 mL
   TF:
   IVF:
                                                                  1,053 mL
                                                                    111 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,137 mL
                                                                    600 mL
   Urine:
                                                                  1,137 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    771 mL
                                                                   -489 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ////
   Physical Examination
   General: Pleasant, thin elderly man, fatigued but in NAD
   HEENT: NCAT, MM dry, no scleral icterus
   Pulmonary: Mild crackles at bases, no wheezes.
   Cardiac: RRR.
   Abdomen: soft, distended with +ascites, normoactive BS. Well healed
   scar in RUQ.
   Extremities: No edema, 2+ radial, DP pulses b/l
   Labs / Radiology
   109 K/uL
   10.3 g/dL
   84 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.1 mEq/L
   24 mg/dL
   103 mEq/L
   131 mEq/L
   29.3 %
   7.1 K/uL
        [image002.jpg]
                             [**2172-4-17**]  08:24 AM
                             [**2172-4-17**]  10:30 AM
                             [**2172-4-17**]  03:47 PM
                             [**2172-4-18**]  03:29 AM
                             [**2172-4-18**]  11:03 AM
                             [**2172-4-18**]  07:34 PM
   WBC
   10.3
   12.2
   6.3
   7.1
   Hct
   28.0
   26.6
   23.7
   27.0
   29.3
   Plt
   171
   139
   93
   107
   109
   Cr
   0.9
   1.0
   Glucose
   121
   103
   84
   Other labs: Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL.
   Micro: [**2172-4-17**] Bcx growing pansensitive GNR. Bcx from [**2172-4-17**] later in
   day and [**2172-4-18**] NGTD. Ucx negative. Paracentesis fluid cx NGTD.
   Assessment and Plan
   73 year-old man with metastatic inoperable cholangiocarcinoma with h/o
   gastric outlet obstruction s/p stenting p/w hypotension, fever/chills,
   increased ascites and poor po intake.
   # Fevers/Chills: Pt had low grade temps with chills with prior history
   of GPR peritonitis and resistant E. coli bacteremia. Ascites fluid
   transudative and does not meet criteria for SBP.  Given history and
   abnormal abdominal anatomy, suspect GI source most likely, especially
   given normal CXR and oxygenation, normal UA.  Blood cultures from
   admission growing pansensitive GNR with most likely source being
   biliary.
   -Will verify sensitivities with micro lab given h/o of cipro resistant
   E. coli but will likely switch pt to cipro for tx of pansensitive GNR
   given h/o cephalosporin allergy. Plan for total 14 day-course from
   first negative cultures.
   -F/u final cx data
   #  Hypotension: Ddx includes dehydration (s/p large volume paracentesis
   with likely associated fluid shifts), sepsis. Less likely are decreased
   venous return in setting of malignancy/venous obstruction (patent
   hepatic vasculature on U/S), decompensated CHF, GIB in setting of
   guaiac positive stool, PE.  Resolved over course of day yesterday.
   -Treat infection as above
   -Monitor Hct, active T&S as below
   -Restart home beta blocker today
   # AF: Not anticoagulated - on BB, digoxin (therapeutic level) and
   amiodarone at home. Initial RVR likely compensatory in setting of
   hypotension but resolved with fluids.
   -Continue dig and amio
   -Restart BB with strict holding parameters given improved BP
   # Cholangiocarcinoma: Inoperable.  Per report, though not in [**Name (NI) 179**], pt
   received oral chemotherapy [**4-13**]. Plan for resumption of chemotherapy per
   Dr. [**Last Name (STitle) 1183**].
   # Ascites: Likely related to portal hypertension (transudative) given
   diffuse liver metastases; cx NGTD. Last para was five days prior to
   admission for 5L fluid removal; pt with some discomfort.
   -F/u peritoneal fluid culture
   -Consider therapeutic paracentesis today
   -Pain meds prn
   # Guaiac positive stool: Hematocrit initially slightly above baseline,
   likely hemoconcentrated. Concern for bleed in setting of drop yesterday
   but Hct remained stable after transfusion despite guaiac positive stool
   (?UGI source, likely cholangiocarcinoma); no evidence of hemolysis/DIC
   -Continue ASA, plavix given significant CAD
   -[**Hospital1 **] hematocrits, keep active T&S
   -[**Hospital1 **] PPI
   # Low platelets: Concern given >50% drop within 24 hours yesterday but
   likely dilutional rather than DIC (labs neg), HIT as improved on repeat
   labs.
   -Continue to trend
   # Coronary artery disease:
   -Continue ASA, plavix
   -Restart beta blocker today
   # Diabetes
   -Hold glipizide
   -HISS, diabetic diet
   # Poor PO intake:
   -Slowly advance diet
   -Nutrition consult, supplements per recs
   ICU Care
   Nutrition: clear liquids advance as tolerated to diabetic diet,
   awaiting nutrition recs
   Glycemic Control:  sliding scale insulin
   Lines:
   Multi Lumen - [**2172-4-17**] 06:42 AM
   18 Gauge - [**2172-4-17**] 06:43 AM
   20 Gauge - [**2172-4-17**] 06:43 AM
   Prophylaxis:
   DVT: Heparin SC, pneumoboots
   Stress ulcer: PPI
   VAP:  N/A
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: Call out to floor today

2172-04-19 10:12:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   See previous notes
   24 Hour Events:
 BLOOD CULTURED - At [**2172-4-18**] 02:26 PM
   Abd distention - given morphine
   Normotensive overnight
                   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Epinephrine
   "racing heart";
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2172-4-19**] 04:31 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2172-4-18**] 08:19 PM
   Pantoprazole (Protonix) - [**2172-4-19**] 07:48 AM
   Other medications:
   reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-4-19**] 10:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.8
C (96.4
   HR: 80 (76 - 89) bpm
   BP: 107/66(76) {96/40(53) - 121/73(86)} mmHg
   RR: 18 (15 - 24) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
   CVP: 4 (4 - 6)mmHg
   Bladder pressure: 16 (16 - 36) mmHg
                               Total In:
                                                                  1,908 mL
                                                                    330 mL
   PO:
                                                                    480 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,053 mL
                                                                    210 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,137 mL
                                                                    760 mL
   Urine:
                                                                  1,137 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    771 mL
                                                                   -430 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant, Crackles : rare at
   bases)
   Abdominal: Soft, Non-tender, Distended, No guarding
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   121 K/uL
   79 mg/dL
   1.0 mg/dL
   20 mEq/L
   4.1 mEq/L
   24 mg/dL
   103 mEq/L
   131 mEq/L
   29.3 %
   7.1 K/uL
        [image002.jpg]
                             [**2172-4-17**]  08:24 AM
                             [**2172-4-17**]  10:30 AM
                             [**2172-4-17**]  03:47 PM
                             [**2172-4-18**]  03:29 AM
                             [**2172-4-18**]  11:03 AM
                             [**2172-4-18**]  07:34 PM
                             [**2172-4-19**]  05:35 AM
   WBC
   10.3
   12.2
   6.3
   7.1
   7.1
   Hct
   28.0
   26.6
   23.7
   27.0
   29.3
   29.3
   Plt
   171
   139
   93
   107
   109
   121
   Cr
   0.9
   1.0
   1.0
   Glucose
   121
   103
   84
   79
   Other labs: PT / PTT / INR:14.0/26.5/1.2, ALT / AST:18/23, Alk Phos / T
   Bili:242/2.0, Differential-Neuts:88.7 %, Lymph:8.0 %, Mono:3.1 %,
   Eos:0.2 %, Fibrinogen:349 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.2
   g/dL, LDH:123 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 ASCITES
 HYPOTENSION (NOT SHOCK)
   Patient is a 73 yo male with history of metastatic cholangiocarcinoma
   now admitted to the ICU with significant findings of fatigue, chills,
   increased ascites and fever all consistent with sepsis.  Of note
   patient does have history of gastric outlet obstruction but active
   obstruction did not appear to be present. Admitted with evidence of
   hyptension/septic shock in the setting of recent paracentesis. He also
   appeared hypovolemic.
   IMP
   1) GNR bactermia/hypotension - likely from biliary source exacerbated
   from impaired venous return/intravascular vol depletion.
   -Empiric Abx day [**2-22**] to continue
will need to follow culture results,
   still awaiting speciation but pansensitive per report
   -IVF/albumin bolus as needed
   -Will need to track CVP and CvO2
   - UNa 13, bladder pressure 16
   2) Ascites - likely from underlying malignancy with liver mets
   -Follow abdominal exam
   -consider therapeutic para
   3) Acute Anemia/thrombocytopenia
   -likely dilutional but has some GI bleeding which will need to be
   followed - will likely require GI evaluation
   -Will need to trend HCT for concern of possible GI blood losses
   -PE unlikely and risk of GI bleed significant and will hold on further
   Rx
   4)Cholangiocarcinoma-
   -Will need to discuss ongoing Xeloda with primary oncology team in the
   setting of possible active infection
   Additional Issues as detailed in the resident's note. Goals of care
   will eventually need to be reassessed.
   ICU Care
   Nutrition: encourage PO, Ensure
   Glycemic Control:
   Lines:
   Multi Lumen - [**2172-4-17**] 06:42 AM
   18 Gauge - [**2172-4-17**] 06:43 AM
   20 Gauge - [**2172-4-17**] 06:43 AM
   Prophylaxis:
   DVT: SQ UF Heparin, boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient can be called out to floor.